US09120749B2
Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[6-(piperazin-1-yl)pyridin-3-ylamino]quinolin-3-yl}methanone
Following general procedure A-2, tert-butyl 4-{5-[3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]pyridin-2-yl}piperazine-1-carboxylate (0.118 mmol) was reacted with TFA (2 mL) to afford the desired product (26 mg, 41% over two steps) as an orange solid: 1H NMR (300 MHz, CDCl3) δ 11.92 (s, 1H), 9.35 (s, 1H), 8.07-7.94 (m, 2H), 7.75-7.68 (m, 2H), 7.08-7.02 (m, 2H), 6.72-6.65 (m, 1H), 3.71-3.64 (m, 4H), 3.17-3.10 (m, 4H), 2.84-2.77 (m, 1H), 1.34-1.10 (m, 4H); ESI MS m/z 534 [C28H25Cl2N5O2+H]+; HPLC 97.3% (AUC), tR=8.65 min.

reactant | tert-butyl 4-{5-[3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]pyridin-2-yl}piperazine-1-carboxylate | 0.118 mmol | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=CC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)C1=CC(=C(C(=C1)Cl)O)Cl | C33H33Cl2N5O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | Cyclopropyl{6-(3,5-dichloro-4-hydroxyphenyl)-4-[6-(piperazin-1-yl)pyridin-3-ylamino]quinolin-3-yl}methanone | 26 mg, 41% | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC=1C=NC(=CC1)N1CCNCC1)C1=CC(=C(C(=C1)Cl)O)Cl | C28H25Cl2N5O2
